US06172108B2
Step a: 2-(Phenylsulphonylamino)-3-phenylpropanoic acid
A mixture of 151 mmol (26.6 g) of benzenesulphonyl chloride and 50 ml of 4M aqueous sodium hydroxide is added to a solution of 37.8 mmol (6.25 g) of phenylalanine in 50 ml of 4M aqueous sodium hydroxide. The reaction mixture is stirred at room temperature for 24 hours. The solution is then rendered acidic to pH=2 with dilute hydrochloric acid and extracted with ether. The organic phase is dried over magnesium sulphate and concentrated. The resulting residue is recrystallised from ethanol to yield the expected compound.

reactant | benzenesulphonyl chloride | 151 mmol, 26.6 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | phenylalanine | 37.8 mmol, 6.25 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
solvent | sodium hydroxide | 4M, 50 ml | [OH-].[Na+]
solvent | sodium hydroxide | 4M, 50 ml | [OH-].[Na+]
product | 2-(Phenylsulphonylamino)-3-phenylpropanoic acid | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)O)CC1=CC=CC=C1 | C15H15NO4S
